2141-03-11 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-10**] Events:
   - A-line, RIJ placed
   - SBP in low 70s, given 500cc NS bolus.
   - Echo: mild symmetric LVH. Hyperdynamic EF (>75%). Mod dilated RV,
   mild global free wall hypokinesis. Abnl systolic septal motion/position
   c/w RV pressure overload. No AR. 1+ MR. [**First Name (Titles) **] [**Last Name (Titles) 1560**] A systolic HTN.
   Compared w/ prior study on [**2140-12-26**], the RV appears (more) dilated with
   evidence of pressure overload. The estimated PA pressure has
   increased.
   - Hemoptysis while getting mini-BAL; ~50cc of frank blood. Bronch with
   fresh clot coming from RLL, no active bleeding.
   - Evidence of PTX on left lung; vent mode switched to Pressure Control
   to limit expansion of PTX. Frequent CXR to check for tension PTX-->
   size of PTX stable.
   - Disynchronous with vent, increasing risk of expanding PTX ->
   paralyzed pt for ~3 hours, off since 1 am.
   - Tube feeds started
 INVASIVE VENTILATION - START [**2141-3-10**] 08:00 AM
 NASAL SWAB - At [**2141-3-10**] 08:16 AM
 EKG - At [**2141-3-10**] 09:10 AM
 URINE CULTURE - At [**2141-3-10**] 09:10 AM
 TRANSTHORACIC ECHO - At [**2141-3-10**] 11:16 AM
 ARTERIAL LINE - START [**2141-3-10**] 01:35 PM
 BRONCHOSCOPY - At [**2141-3-10**] 04:00 PM
 MULTI LUMEN - START [**2141-3-10**] 04:11 PM
 BRONCHOSCOPY - At [**2141-3-10**] 04:47 PM
 BLOOD CULTURED - At [**2141-3-11**] 04:40 AM
 URINE CULTURE - At [**2141-3-11**] 04:40 AM
 FEVER - 101.3
F - [**2141-3-10**] 07:00 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2141-3-10**] 08:20 AM
   Vancomycin - [**2141-3-10**] 08:18 PM
   Ciprofloxacin - [**2141-3-11**] 01:08 AM
   Aztreonam - [**2141-3-11**] 06:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2141-3-10**] 08:15 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2141-3-10**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-11**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.7
   HR: 95 (93 - 120) bpm
   BP: 92/53(66) {74/50(53) - 109/70(81)} mmHg
   RR: 29 (21 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 11 (8 - 16)mmHg
   Total In:
                                                                  4,552 mL
                                                                  1,548 mL
   PO:
   TF:
                                                                     65 mL
   IVF:
                                                                  4,502 mL
                                                                  1,384 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    390 mL
   Urine:
                                                                  1,380 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,172 mL
                                                                  1,158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 500 (500 - 605) mL
   PS : 1 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 41 cmH2O
   Plateau: 39 cmH2O
   SpO2: 99%
   ABG: 7.26/65/103/31/0
   Ve: 15.3 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General: Intubated, sedated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles and rhonchi bilaterally
   CV: tachycardic, hyperdynamic, normal S1 and S2.
   Abdomen:  soft, nondistended. Normoactive bowel sounds
   Ext: trace
 1+ edema
   Neuro: Withdraws to pain. Does not respond to commands
   Labs / Radiology
   396 K/uL
   9.9 g/dL
   166 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.4 mEq/L
   13 mg/dL
   105 mEq/L
   138 mEq/L
   31.7 %
   19.3 K/uL
        [image002.jpg]
                             [**2141-3-10**]  01:53 PM
                             [**2141-3-10**]  05:54 PM
                             [**2141-3-10**]  07:26 PM
                             [**2141-3-10**]  08:47 PM
                             [**2141-3-10**]  09:29 PM
                             [**2141-3-10**]  10:10 PM
                             [**2141-3-10**]  10:35 PM
                             [**2141-3-11**]  02:10 AM
                             [**2141-3-11**]  02:18 AM
                             [**2141-3-11**]  06:53 AM
   WBC
   19.3
   Hct
   31.7
   Plt
   396
   Cr
   0.7
   TropT
   0.11
   0.11
   TCO2
   30
   31
   31
   40
   35
   31
   33
   31
   Glucose
   166
   Other labs: PT / PTT / INR:18.1/29.2/1.7, CK / CKMB /
   Troponin-T:103/9/0.11, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.9 mg/dL
   [**Last Name (un) 1398**] stim pending
   CXR (my read)
 pneumothorax not apparent/stable. Better aeration in
   right lower lung
   Assessment and Plan
   Assessment and Plan: This is a 54 yo M with IPF currently under
   evaluation for lung transplant at [**Hospital1 966**] who is admitted with worsening
   hypoxia and respiratory failure.
   .
   # Respiratory failure:  [**Month (only) 11**] be secondary to superimposed pna on patient
   with no pulmonary reserve.  Appears he has been experiencing worsening
   dyspnea with increased O2 requirement for the last several weeks
   looking back through OMR discharge summaries. Unable to appreciate a
   clear infiltrate on CXR given underlying fibrosis.  [**Month (only) 11**] also be acute
   exacerbation of underlying IPF. Was persistently hypercarbic overnight
   despite tweaking of vent settings. Currently experiencing high plateau
   and peak pressures. CXR appears improved in RLL.
   - Will try pressure control 20/5 or 25/5, recheck ABG
   - Continue NAC
   - Per Dr. [**Name (NI) **] (pt
s outpt pulmonologist), will hold on CT chest
   for further characterization, last was on [**2141-2-1**].
   - Continue vanc/aztreonam/cipro for HAP given PCN allergy.
   - Will hold off on steroids since it would make it ineligible to
   receive a transplant lung
   .
   # Hemodynamics: pt required heavy sedation in order to synchronize with
   vent, which caused drop in BP. Now on two pressors (levophed,
   vasopressin) for BP support. Not responsive to fluids.
   - [**Last Name (un) 1398**] stim test pending
   - No steroids unless absolutely indicated since it will exclude him
   from transplant list.
   - Try to wean off vasopression then levophed as tolerated. If a third
   pressor is necessary, would add dobutamine. NO to vasodilate [**Last Name (un) 1560**]
   vasculature would be next choice.
   # Fever/leukocytosis: Highest on differential list is PNA. U/A clear.
   - f/u pending cultures
   - abx as above
   .
   # Elevated troponin: ruled in with positive cardiac enzymes. Trop-T
   peaked at 0.16, now downward trending.
   No ECG from ED, ECG from OSH showing indeterminate axis, sinus tach, no
   clear ischemic changes.
   - Will hold on heparin for now as trop leak likely in the setting of
   demand given respiratory distress and tachycardia.
   - Echo showing increased RV pressure.
   .
   # Anemia: Lower than baseline of 38-40, however likely hemodilutional.
   - Continue to trend
   .
   # FEN: TF started yesterday then stopped due to brief period of
   paralysis. Will re-challenge today. Replete lytes PRN
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI, bowel regimen
   .
   # Access: peripherals (2 18 gauge, 1 20 gauge), A-line, RIJ
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: requires ICU level of care
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-3-10**] 08:40 AM
   Arterial Line - [**2141-3-10**] 01:35 PM
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-03-11 09:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ECHO--mild LVH, mod dilated RV and mild RV free wall HK and worsening
   RV function clear.
   Patient with brisk hemoptysis following mini-BAL to evaluate for
   infection
   Patient with hypotension following sedation which is not unexpected in
   the setting of RV compromise
   Last night-Patient with persistent hypercarbia despite pressure control
   ventilation.
   CXR--no extension of PTX
   Patient with fever to 101.3
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-3-10**] 08:00 AM
 NASAL SWAB - At [**2141-3-10**] 08:16 AM
 EKG - At [**2141-3-10**] 09:10 AM
 URINE CULTURE - At [**2141-3-10**] 09:10 AM
 TRANSTHORACIC ECHO - At [**2141-3-10**] 11:16 AM
 ARTERIAL LINE - START [**2141-3-10**] 01:35 PM
 BRONCHOSCOPY - At [**2141-3-10**] 04:00 PM
 MULTI LUMEN - START [**2141-3-10**] 04:11 PM
 BRONCHOSCOPY - At [**2141-3-10**] 04:47 PM
 BLOOD CULTURED - At [**2141-3-11**] 04:40 AM
 URINE CULTURE - At [**2141-3-11**] 04:40 AM
 FEVER - 101.3
F - [**2141-3-10**] 07:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2141-3-10**] 08:20 AM
   Ciprofloxacin - [**2141-3-11**] 01:08 AM
   Aztreonam - [**2141-3-11**] 06:00 AM
   Vancomycin - [**2141-3-11**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2141-3-10**] 08:15 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2141-3-10**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-3-11**] 08:00 AM
   Lansoprazole (Prevacid) - [**2141-3-11**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2141-3-11**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 92 (91 - 118) bpm
   BP: 89/72(81) {74/50(53) - 109/72(81)} mmHg
   RR: 21 (0 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 11 (8 - 16)mmHg
   Total In:
                                                                  4,552 mL
                                                                  1,948 mL
   PO:
   TF:
                                                                     65 mL
   IVF:
                                                                  4,502 mL
                                                                  1,743 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    450 mL
   Urine:
                                                                  1,380 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,172 mL
                                                                  1,498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 500 (500 - 605) mL
   PS : 1 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 41 cmH2O
   Plateau: 39 cmH2O
   SpO2: 100%
   ABG: 7.26/65/103/31/0
   Ve: 15.1 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   396 K/uL
   166 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.4 mEq/L
   13 mg/dL
   105 mEq/L
   138 mEq/L
   31.7 %
   19.3 K/uL
        [image002.jpg]
                             [**2141-3-10**]  01:53 PM
                             [**2141-3-10**]  05:54 PM
                             [**2141-3-10**]  07:26 PM
                             [**2141-3-10**]  08:47 PM
                             [**2141-3-10**]  09:29 PM
                             [**2141-3-10**]  10:10 PM
                             [**2141-3-10**]  10:35 PM
                             [**2141-3-11**]  02:10 AM
                             [**2141-3-11**]  02:18 AM
                             [**2141-3-11**]  06:53 AM
   WBC
   19.3
   Hct
   31.7
   Plt
   396
   Cr
   0.7
   TropT
   0.11
   0.11
   TCO2
   30
   31
   31
   40
   35
   31
   33
   31
   Glucose
   166
   Other labs: PT / PTT / INR:18.1/29.2/1.7, CK / CKMB /
   Troponin-T:103/9/0.11, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.9 mg/dL
   Fluid analysis / Other labs: 7.26/65/103
   Imaging: CXR--ETT at 5.5 cm above carina, improved RLL opacities, no
   evidence of PTX
   Assessment and Plan
   54 yo male with history of IPF and now with hypoxemic and hypercarbic
   respiratory failure.  Following intubation patient did have significant
   hemoptysis following mini-BAL procedure--no ongoing bleeding seen but
   with significant clot in airways.  Across the night patient has
   significant worsening of hypercarbia and requiring multiple changes in
   mode of ventilatory support delivery with improvement in CO2.
   1)Respiratory Failure-This would appear secondary to IPF exacerbation.
   He has not had documented infection to date but does have concerning
   fevers and elevated WBC count but has no significant culture results to
   date.
   -Continue vanco/Aztreonam/Cipro
   -Will continue in A/C mode of support with PIP-40 and Pplat=38
   -As infiltrates resolve and with some decrease in clot volume being
   cleared would continue to attempt to provide safer ventilatory support
   -Will continue deep sedation
   -Hold paralytics
   2)Shock-This is likely related to Right heart compromise and
   significant change in PVR impairing effective stroke volume and in the
   setting of high levels of sedation patient has need for both effective
   volume replacement and adequate stroke volume.  In addition, patient
   has concern given elevated WBC count, fever but no positive culture
   results to suggest possible but not confirmed sepsis.
   -Keep CVP at 10-11 given likely significant elevation in Pleural
   Pressures
   -Would not elevated CVP above 12 as have given 7 liters to get to [**10-1**]
   measured CVP
   -Will continue with Levophed for pressure support
   -Follow up culture results
   -[**Last Name (un) 1398**] stim done and results pending but would not start steroids
   without considering impact on transplant status
   -Continue with pneumonia treatment as above.
   3)Myocardial Ischemia-Troponin positive, may be demand ischemia
   -Troponin trending down
   -Follow up ECG in morning
   -Follow for recurrent ischemia
   ICU Care
   Nutrition: Tube feeds to start when gut function returns
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-3-10**] 08:40 AM
   Arterial Line - [**2141-3-10**] 01:35 PM
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Dr. [**Last Name (STitle) 60**] to be updated in full
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-03-12 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - A-line replaced
   - Remains on 2 pressors
   - Inactivated from lung transplant list as sepsis is likely
   - mini BAL NGTD
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2141-3-10**] 08:20 AM
   Vancomycin - [**2141-3-11**] 07:51 PM
   Ciprofloxacin - [**2141-3-12**] 12:10 AM
   Aztreonam - [**2141-3-12**] 05:26 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-11**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-11**] 07:51 PM
   Fentanyl - [**2141-3-11**] 09:00 PM
   Midazolam (Versed) - [**2141-3-11**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-12**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.2
   HR: 88 (83 - 101) bpm
   BP: 96/59(74) {89/55(69) - 103/73(82)} mmHg
   RR: 0 (0 - 350) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 5 (5 - 11)mmHg
   Total In:
                                                                  4,728 mL
                                                                    811 mL
   PO:
   TF:
                                                                    156 mL
   IVF:
                                                                  4,367 mL
                                                                    811 mL
   Blood products:
   Total out:
                                                                  1,242 mL
                                                                    445 mL
   Urine:
                                                                    917 mL
                                                                    265 mL
   NG:
                                                                    325 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  3,486 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 450 (450 - 450) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 36 cmH2O
   SpO2: 100%
   ABG: 7.31/64/118/32/3
   Ve: 15.4 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General: Intubated, sedated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles and rhonchi bilaterally
   CV: tachycardic, hyperdynamic, normal S1 and S2.
   Abdomen:  soft, nondistended. Normoactive bowel sounds
   Ext: trace
 1+ edema
   Neuro: Withdraws to pain. Does not respond to commands
   Labs / Radiology
   453 K/uL
   9.0 g/dL
   164 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.4 mEq/L
   15 mg/dL
   100 mEq/L
   134 mEq/L
   28.2 %
   17.1 K/uL
        [image002.jpg]
                             [**2141-3-11**]  02:10 AM
                             [**2141-3-11**]  02:18 AM
                             [**2141-3-11**]  06:53 AM
                             [**2141-3-11**]  03:40 PM
                             [**2141-3-11**]  04:15 PM
                             [**2141-3-11**]  06:35 PM
                             [**2141-3-11**]  07:45 PM
                             [**2141-3-11**]  09:09 PM
                             [**2141-3-12**]  02:17 AM
                             [**2141-3-12**]  02:27 AM
   WBC
   19.3
   17.8
   17.1
   Hct
   31.7
   30.9
   28.2
   Plt
   396
   454
   453
   Cr
   0.7
   0.8
   0.8
   TropT
   0.11
   0.06
   TCO2
   33
   31
   29
   30
   33
   34
   34
   Glucose
   166
   191
   164
   Other labs: PT / PTT / INR:17.3/30.5/1.6, CK / CKMB /
   Troponin-T:40/9/0.06, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   This is a 54 yo M with IPF currently under evaluation for lung
   transplant at [**Hospital1 966**] who is admitted with worsening hypoxia and
   respiratory failure.
   .
   # Respiratory failure:  [**Month (only) 11**] be secondary to superimposed PNA on patient
   with no pulmonary reserve.  Appears he has been experiencing worsening
   dyspnea with increased O2 requirement for the last several weeks.
   Unable to appreciate a clear infiltrate on CXR given underlying
   fibrosis.  [**Month (only) 11**] also be acute exacerbation of underlying IPF. Per Dr.
   [**Name (NI) **] (pt
s outpt pulmonologist), will hold on CT chest for further
   characterization, last was on [**2141-2-1**]. CXR appears improved in RLL.
   Patient taken off the lung transplant list [**3-11**]. AC with TV 400, rate
   35, PEEP 5
 Goal peak pressures 40 or less. ABGs normalizing.
   - Continue NAC
   - Continue vanc/aztreonam/cipro for HAP given PCN allergy.
   - Will change to amikacin if worsens
   - Try to reduce peak pressures/FiO2 as tolerated today
   .
   # Hemodynamics: pt required heavy sedation in order to synchronize with
   vent, which caused drop in BP. Now on two pressors (levophed,
   vasopressin) for BP support. Not responsive to fluids.
   - Try to wean off vasopression then levophed as tolerated.
   .
   # Fever/leukocytosis: Trending down. Likely PNA. U/A clear.
   - f/u pending cultures
   - abx as above
   .
   # Elevated troponin: ruled in with positive cardiac enzymes. Trop-T
   peaked at 0.16, now downward trending.
   No ECG from ED, ECG from OSH showing indeterminate axis, sinus tach, no
   clear ischemic changes. Will hold on heparin for now as trop leak
   likely in the setting of demand given respiratory distress and
   tachycardia. Echo showing increased RV pressure.
   .
   # Anemia: Slowly falling. Lower than baseline of 38-40, however likely
   hemodilutional. If rebleeds from ETT, turn patient R lateral recumbent
   and call IP.
   - Continue to trend
   .
   # High tube feed residuals. Possible obstruction vs. ileus due to
   paralytics and narcotics
   - KUB for obstruction
   .
   # FEN: TF stopped due to high residuals. Replete lytes PRN
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI, bowel regimen
   .
   # Access: peripherals (2 18 gauge, 1 20 gauge), A-line, RIJ
   .
   # Code: Full
   .
   # Communication: Family
 needs family meeting today to discuss
   duration of ventilation as patient had expressed wish for no prolonged
   intubation
   .
   # Disposition: requires ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-3-10**] 08:40 AM
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Arterial Line - [**2141-3-11**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-03-12 09:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2141-3-11**] 02:57 PM
 ARTERIAL LINE - START [**2141-3-11**] 04:56 PM
 EKG - At [**2141-3-11**] 05:42 PM
   Patient with A-line exchanged yesterday
   Had improved ventilation with extensive ventilatory adjustments to A/C
   although PIP pressures remain high
   Patient inactivated from the lung transplant list
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2141-3-10**] 08:20 AM
   Ciprofloxacin - [**2141-3-12**] 12:10 AM
   Aztreonam - [**2141-3-12**] 05:26 AM
   Vancomycin - [**2141-3-12**] 07:58 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2141-3-12**] 07:57 AM
   Midazolam (Versed) - [**2141-3-12**] 07:57 AM
   Lansoprazole (Prevacid) - [**2141-3-12**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-12**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2141-3-12**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 90 (83 - 101) bpm
   BP: 99/60(77) {91/55(69) - 103/73(82)} mmHg
   RR: 24 (0 - 350) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 4 (4 - 11)mmHg
   Total In:
                                                                  4,728 mL
                                                                  2,137 mL
   PO:
   TF:
                                                                    156 mL
   IVF:
                                                                  4,367 mL
                                                                  2,107 mL
   Blood products:
   Total out:
                                                                  1,242 mL
                                                                    520 mL
   Urine:
                                                                    917 mL
                                                                    340 mL
   NG:
                                                                    325 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  3,486 mL
                                                                  1,617 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 450 (450 - 450) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 36 cmH2O
   SpO2: 90%
   ABG: 7.31/64/118/32/3
   Ve: 15.4 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   sharp, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   453 K/uL
   164 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.4 mEq/L
   15 mg/dL
   100 mEq/L
   134 mEq/L
   28.2 %
   17.1 K/uL
        [image002.jpg]
                             [**2141-3-11**]  02:10 AM
                             [**2141-3-11**]  02:18 AM
                             [**2141-3-11**]  06:53 AM
                             [**2141-3-11**]  03:40 PM
                             [**2141-3-11**]  04:15 PM
                             [**2141-3-11**]  06:35 PM
                             [**2141-3-11**]  07:45 PM
                             [**2141-3-11**]  09:09 PM
                             [**2141-3-12**]  02:17 AM
                             [**2141-3-12**]  02:27 AM
   WBC
   19.3
   17.8
   17.1
   Hct
   31.7
   30.9
   28.2
   Plt
   396
   454
   453
   Cr
   0.7
   0.8
   0.8
   TropT
   0.11
   0.06
   TCO2
   33
   31
   29
   30
   33
   34
   34
   Glucose
   166
   191
   164
   Other labs: PT / PTT / INR:17.3/30.5/1.6, CK / CKMB /
   Troponin-T:40/9/0.06, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.0 mg/dL
   Fluid analysis / Other labs: 7.31/64/118
   Imaging: CXR
   Assessment and Plan
   54 yo male with IPF and admit with combined hypoxemic and hypercarbic
   respiratory failure related to progression of IPF with significant
   concern for evolution of significant infection given fevers and
   hypotension.  Today he has some significant decrease in fever but still
   at 100.7.  He remains on pressors for decrease in BP which is related
   both to right heart compromise, increased PAP's but can not rule out
   decreased SVR.  Of note patient has had improved oxygenation with
   support and improved effective ventilation.
   1)Respiratory Failure-Secondary to above-->
   -Continue with A/C support--with increase in effective ventilation will
   consider decrease in Vt given persistent elevation in PIP at 40 and
   PCO2 with trend to down with change made should PCO2 be seen to further
   decrease to <60
   -Versed/Fentanyl
   -Continue NAC
   -No change in vent support this morning
   -Goal FIO2=0.5-0.6
   2)Sepsis-Concern
   -Levophed--0.3
   -Vasopressin--0.04
   -There is likely a significant component of right heart compromise
   contribution to the hypotension
the bias has been against significant
   volume loading given concern for worsening of pulmonary gas exchange
   should pulmonary edema be seen.  Additional rationale is CVP is
   measured as low as well
   -Will trial volume challenge today
   -Vanco/Aztreonam/Cipro
   -Consider Amikacin for worsening
   3)Pulmonary Fibrosis-
   -Continue NAC
need to clarify dose with Dr. [**Last Name (STitle) 60**]
   [**Name (STitle) 4969**] currently inactive on transplant list due to severity of
   medical illness
   -Will continue to update [**Hospital1 966**] over next days in regards to pulmonary and
   fever status.
   ICU Care
   Nutrition: Tube feeds to be continued if possible
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-3-10**] 08:40 AM
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Arterial Line - [**2141-3-11**] 04:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2141-03-13 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - KUB no free air or obstruction, narcan started for ileus, tube feeds
   restarted as no more residuals
   - NAC increased to prior dose
   - bolused 500 cc IV x 2 for CVP 6 and low urine output.
   - vasopressin weaned off; levophed decreased
   - PIPs kept < 40
   - pan-cultured
   - hct stable
   - FIO2 increased when pt. dropped sats after turning, more alert & did
   not tolerate weaning FIO2 back down; needed multiple boluses of
   sedation overnight d/t being dissynchronous with the vent, consistently
   desatted when FIO2 titrated down.
 BLOOD CULTURED - At [**2141-3-12**] 10:00 AM
 URINE CULTURE - At [**2141-3-12**] 10:00 AM
 SPUTUM CULTURE - At [**2141-3-12**] 12:02 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2141-3-10**] 08:20 AM
   Vancomycin - [**2141-3-12**] 08:43 PM
   Ciprofloxacin - [**2141-3-13**] 12:02 AM
   Aztreonam - [**2141-3-13**] 06:42 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-12**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-12**] 08:43 PM
   Midazolam (Versed) - [**2141-3-13**] 06:38 AM
   Fentanyl - [**2141-3-13**] 06:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-13**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 91 (74 - 98) bpm
   BP: 84/56(68) {77/46(58) - 108/83(93)} mmHg
   RR: 36 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 6 (6 - 8)mmHg
   Total In:
                                                                  4,872 mL
                                                                    876 mL
   PO:
   TF:
                                                                    126 mL
                                                                    117 mL
   IVF:
                                                                  4,596 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    470 mL
   Urine:
                                                                  1,225 mL
                                                                    470 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  3,467 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 14.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/71/143/32/6
   Ve: 16 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General: Intubated, sedated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles and rhonchi bilaterally
   CV: tachycardic, hyperdynamic, normal S1 and S2.
   Abdomen:  soft, nondistended. Normoactive bowel sounds
   Ext: trace
 1+ edema
   Neuro: Withdraws to pain. Does not respond to commands
   Labs / Radiology
   352 K/uL
   8.7 g/dL
   118 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   26.8 %
   16.3 K/uL
        [image002.jpg]
                             [**2141-3-11**]  04:15 PM
                             [**2141-3-11**]  06:35 PM
                             [**2141-3-11**]  07:45 PM
                             [**2141-3-11**]  09:09 PM
                             [**2141-3-12**]  02:17 AM
                             [**2141-3-12**]  02:27 AM
                             [**2141-3-12**]  03:51 PM
                             [**2141-3-12**]  05:29 PM
                             [**2141-3-13**]  03:48 AM
                             [**2141-3-13**]  03:56 AM
   WBC
   17.1
   16.3
   Hct
   28.2
   27.4
   26.8
   Plt
   453
   352
   Cr
   0.8
   0.6
   TropT
   0.06
   TCO2
   29
   30
   33
   34
   34
   33
   37
   Glucose
   164
   118
   Other labs: PT / PTT / INR:16.6/28.5/1.5, CK / CKMB /
   Troponin-T:40/9/0.06, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   This is a 54 yo M with IPF currently under evaluation for lung
   transplant at [**Hospital1 966**] who is admitted with worsening hypoxia and
   respiratory failure.
   .
   # Respiratory failure:  [**Month (only) 11**] be secondary to superimposed PNA on patient
   with no pulmonary reserve.  Appears he has been experiencing worsening
   dyspnea with increased O2 requirement for the last several weeks.
   Unable to appreciate a clear infiltrate on CXR given underlying
   fibrosis.  [**Month (only) 11**] also be acute exacerbation of underlying IPF. Per Dr.
   [**Name (NI) **] (pt
s outpt pulmonologist), will hold on CT chest for further
   characterization, last was on [**2141-2-1**]. CXR appears improved in RLL.
   Patient taken off the lung transplant list [**3-11**]. AC with TV 400, rate
   35, PEEP 5
 Goal peak pressures 40 or less. ABGs normalizing.
   - Continue NAC
   - Continue vanc/aztreonam/cipro for HAP given PCN allergy.
   - Will change to amikacin if worsens
   - Try to reduce peak pressures/FiO2 as tolerated today
   .
   # Hemodynamics: pt required heavy sedation in order to synchronize with
   vent, which caused drop in BP. Now on two pressors (levophed,
   vasopressin) for BP support. Not responsive to fluids.
   - Try to wean off vasopression then levophed as tolerated.
   .
   # Fever/leukocytosis: Trending down. Likely PNA. U/A clear.
   - f/u pending cultures
   - abx as above
   .
   # Elevated troponin: ruled in with positive cardiac enzymes. Trop-T
   peaked at 0.16, now downward trending.
   No ECG from ED, ECG from OSH showing indeterminate axis, sinus tach, no
   clear ischemic changes. Will hold on heparin for now as trop leak
   likely in the setting of demand given respiratory distress and
   tachycardia. Echo showing increased RV pressure.
   .
   # Anemia: Slowly falling. Lower than baseline of 38-40, however likely
   hemodilutional. If rebleeds from ETT, turn patient R lateral recumbent
   and call IP.
   - Continue to trend
   .
   # High tube feed residuals. Possible obstruction vs. ileus due to
   paralytics and narcotics
   - KUB for obstruction
   .
   # FEN: TF stopped due to high residuals. Replete lytes PRN
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI, bowel regimen
   .
   # Access: peripherals (2 18 gauge, 1 20 gauge), A-line, RIJ
   .
   # Code: Full
   .
   # Communication: Family
 needs family meeting today to discuss
   duration of ventilation as patient had expressed wish for no prolonged
   intubation
   .
   # Disposition: requires ICU level of care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-3-12**] 05:36 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Arterial Line - [**2141-3-11**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-03-13 09:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-3-12**] 10:00 AM
 URINE CULTURE - At [**2141-3-12**] 10:00 AM
 SPUTUM CULTURE - At [**2141-3-12**] 12:02 PM
   -Vasopressin off and Levophed weaned down
   -Patient with desaturations noted overnight following turning and had
   requirement for FIO2 increase to 100
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-12**] 08:43 PM
   Ciprofloxacin - [**2141-3-13**] 12:02 AM
   Aztreonam - [**2141-3-13**] 06:42 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-12**] 08:43 PM
   Midazolam (Versed) - [**2141-3-13**] 06:38 AM
   Fentanyl - [**2141-3-13**] 06:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2141-3-13**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 93 (74 - 98) bpm
   BP: 91/54(69) {77/46(58) - 108/83(93)} mmHg
   RR: 35 (20 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 6 (6 - 8)mmHg
   Total In:
                                                                  4,872 mL
                                                                  1,102 mL
   PO:
   TF:
                                                                    126 mL
                                                                    131 mL
   IVF:
                                                                  4,596 mL
                                                                    751 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    545 mL
   Urine:
                                                                  1,225 mL
                                                                    545 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  3,467 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 39 cmH2O
   Plateau: 32 cmH2O
   Compliance: 15.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.34/63/207/32/6
   Ve: 16.7 L/min
   PaO2 / FiO2: 259
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   352 K/uL
   118 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   26.8 %
   16.3 K/uL
        [image002.jpg]
                             [**2141-3-11**]  06:35 PM
                             [**2141-3-11**]  07:45 PM
                             [**2141-3-11**]  09:09 PM
                             [**2141-3-12**]  02:17 AM
                             [**2141-3-12**]  02:27 AM
                             [**2141-3-12**]  03:51 PM
                             [**2141-3-12**]  05:29 PM
                             [**2141-3-13**]  03:48 AM
                             [**2141-3-13**]  03:56 AM
                             [**2141-3-13**]  07:53 AM
   WBC
   17.1
   16.3
   Hct
   28.2
   27.4
   26.8
   Plt
   453
   352
   Cr
   0.8
   0.6
   TropT
   0.06
   TCO2
   30
   33
   34
   34
   33
   37
   35
   Glucose
   164
   118
   Other labs: PT / PTT / INR:16.6/28.5/1.5, CK / CKMB /
   Troponin-T:40/9/0.06, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:0.7 mmol/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: 7.34/63/207/35
   Assessment and Plan
   54 yo male with h/o IPF now admitted with persistent hypoxemic
   respiratory failure.  He had significant increase in FIO2 required.
   This did seem to correspond with acute re-positioning but patient also
   with positive fluid balance across the 24 hour period at 3.5 liters.
   He has had no change in hemoptysis and suctioning has been without
   significant changes.  Of note Temp <100 for 24 hours.  He has zeroed
   CVP of 11 this morning and has PIP=36 which appears to be reasonably
   optimal.  In that setting we have been able to effect some increase in
   urine flow and decrease in pressors.
   1)Respiratory Failure
Is likely a component of fixed underlying lung
   disease worsened by intercurrent infection.
   -IPF
Continue NAC
   -Continue with volume cycled ventilation
   -Would minimize dead space if further rise in CO2 noted
   -Wean FIO2 as needed
   2)Hypotension
[**Month (only) 11**] be a component of sepsis, has functional hypovolemia
   with fluid responsiveness noted yesterday.
   -Versed/Fentanyl
   -Follow up sputum sample
some concern for increased secretions
   -Continue with ABX
   3)Pulmonary Fibrosis-
   -Patient with concerning persistence of respiratory failure and with
   increased secretion volume
   -Inactive on transplant list at this time
   -Will repeat CXR
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-3-12**] 05:36 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Arterial Line - [**2141-3-11**] 04:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2141-03-14 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2141-3-13**] 08:00 PM
 BLOOD CULTURED - At [**2141-3-13**] 09:25 PM
   - Spiked to 101.8, pan-cultured.
   *Vent changes*
   - Required higher FiO2 for some periods but now back down to 70%
   - PEEP increased to 8, beyond which PIP rose to >40.
   *Labs*
   - Central venous O2 sat 78%
   *Studies*
   - Echo: Severely dilated and moderately hypokinetic RV with at least
   moderate PA systolic HTN. 2+ TR. Normal LV fxn.
   Compared with the prior study (images reviewed) of [**2141-3-10**], the
   findings are similar. The prior report mentions that the right
   ventricle is mildly hypokinetic and moderately dilated however on
   review, it was severely dilated and moderately hypokinetic then.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-13**] 08:04 PM
   Aztreonam - [**2141-3-13**] 10:08 PM
   Ciprofloxacin - [**2141-3-14**] 12:08 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-3-13**] 03:21 PM
   Fentanyl - [**2141-3-13**] 06:43 PM
   Heparin Sodium (Prophylaxis) - [**2141-3-13**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.4
C (97.6
   HR: 91 (86 - 112) bpm
   BP: 88/69(79) {83/51(65) - 176/171(174)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  3,302 mL
                                                                    884 mL
   PO:
   TF:
                                                                    346 mL
                                                                    212 mL
   IVF:
                                                                  2,496 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    720 mL
   Urine:
                                                                  1,665 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,637 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: 7.32/73.[**Numeric Identifier **]/70/35/7
   Ve: 13.2 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General: Intubated, sedated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles and rhonchi bilaterally
   CV: tachycardic, hyperdynamic, normal S1 and S2.
   Abdomen:  soft, nondistended. Normoactive bowel sounds
   Ext: trace
 1+ edema
   Neuro: Withdraws to pain. Does not respond to commands
   Labs / Radiology
   369 K/uL
   8.2 g/dL
   136 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.9 mEq/L
   7 mg/dL
   97 mEq/L
   136 mEq/L
   25.1 %
   15.8 K/uL
         [image002.jpg]
                             [**2141-3-13**]  03:48 AM
                             [**2141-3-13**]  03:56 AM
                             [**2141-3-13**]  07:53 AM
                             [**2141-3-13**]  11:29 AM
                             [**2141-3-13**]  12:54 PM
                             [**2141-3-13**]  04:24 PM
                             [**2141-3-13**]  04:44 PM
                             [**2141-3-13**]  06:40 PM
                             [**2141-3-13**]  11:39 PM
                             [**2141-3-14**]  03:21 AM
   WBC
   16.3
   14.3
   15.8
   Hct
   26.8
   26.9
   25.1
   Plt
   [**Telephone/Fax (3) 4995**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   37
   35
   36
   41
   40
   40
   39
   Glucose
   118
   108
   136
   Other labs: PT / PTT / INR:18.0/30.1/1.6, CK / CKMB /
   Troponin-T:40/9/0.06, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Microbiology:
   RSV Culture
 Negative
   Sputum Gram Stain ([**3-13**]) - >25 PMNs, <10 epithelials
   Imaging:
   Chest XRay -
   In comparison with the study of [**3-13**], there is little interval
   change. Support and monitoring devices remain in place. Widespread
   bilateral
   pulmonary opacifications persist. Enlargement of the trachea is again
   noted,
   unchanged from the previous study.
   Assessment and Plan
   This is a 54 yo M with IPF currently under evaluation for lung
   transplant at [**Hospital1 966**] who is admitted with worsening hypoxia and
   respiratory failure.
   .
   # Respiratory failure:  Likely secondary to superimposed PNA on patient
   with no pulmonary reserve due to IPF.  Appears he has been experiencing
   worsening dyspnea with increased O2 requirement for the last several
   weeks. Unable to appreciate a clear infiltrate on CXR given underlying
   fibrosis.  Per Dr. [**Name (NI) **] (pt
s outpt pulmonologist), will hold on CT
   chest for further characterization, last was on [**2141-2-1**]. Patient taken
   off the lung transplant list [**3-11**] (is
inactive
 at this time). Due to
   ECHO results, patient is no longer a transplant candidate. Will address
   this with family today.
   - AC with TV 400, rate 35, PEEP 8
 Goal peak pressures 40 or less.
   - Wean down FiO2 as tolerated. Will monitor ABGs.
   - Continue NAC.
   - Continue vanc/aztreonam/cipro for HAP given PCN allergy.
   - Will change to amikacin if worsens or if cultures necessitate
   antibiotic change.
   - no steroids for now
   .
   # Hemodynamics: pt required heavy sedation in order to synchronize with
   vent, which caused drop in BP. Not responsive to fluids.
   - Wean down on levophed as tolerated.
   .
   # Fever/leukocytosis: WBC trending down. Likely PNA. U/A clear. Having
   thicker secretions today
   - f/u pending sputum/blood cultures
   - abx as above
   .
   # Elevated troponin: ruled in with positive cardiac enzymes. Trop-T
   peaked at 0.16, now downward trending.
   No ECG from ED, ECG from OSH showing indeterminate axis, sinus tach, no
   clear ischemic changes. Will hold on heparin for now as trop leak
   likely in the setting of demand given respiratory distress and
   tachycardia. Echo showing increased RV pressure.
   .
   # Anemia: Slowly falling. Lower than baseline of 38-40, however at
   least partly hemodilutional. If rebleeds from ETT, turn patient R
   lateral recumbent and call IP.
   - Continue to trend
   .
   # High tube feed residuals. Possible obstruction vs. ileus due to
   paralytics and narcotics; KUB negative for obstruction. Now tolerating
   tube feeds. Will continue to monitor.
   .
   # FEN: Tube Feeds. Replete lytes PRN
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI, bowel regimen
   .
   # Access: peripherals (2 18 gauge, 1 20 gauge), A-line, RIJ
   .
   # Code: Full
   .
   # Communication: Family
 Meeting planned for this afternoon with Dr.
   [**Last Name (STitle) **].
   .
   # Disposition: requires ICU level of care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-3-12**] 05:36 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Arterial Line - [**2141-3-11**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4782**], MSIV
   I have examined the patient and agree with the above assessment and
   plan as outlined by the Medical student.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4473**], MD  PGY-1

2141-03-14 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-3-13**] 09:25 PM
 FEVER - 101.8
F - [**2141-3-13**] 08:00 PM
   -Persistent and worening hypoxemia
   -PEEP increase to 8 in the setting of persistent hypoxemia
   -FIO2 unable to be weaned to <70%
   -ECHO---severely dilated and moderate hypokinetic RV
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2141-3-13**] 10:08 PM
   Ciprofloxacin - [**2141-3-14**] 12:08 AM
   Vancomycin - [**2141-3-14**] 08:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2141-3-13**] 03:21 PM
   Fentanyl - [**2141-3-13**] 06:43 PM
   Lansoprazole (Prevacid) - [**2141-3-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-14**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.1
C (98.7
   HR: 80 (80 - 112) bpm
   BP: 89/63(76) {83/51(65) - 176/171(174)} mmHg
   RR: 35 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  3,302 mL
                                                                  1,560 mL
   PO:
   TF:
                                                                    346 mL
                                                                    341 mL
   IVF:
                                                                  2,496 mL
                                                                  1,159 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                  1,385 mL
   Urine:
                                                                  1,665 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,637 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 44 cmH2O
   Plateau: 37 cmH2O
   SpO2: 97%
   ABG: 7.32/73.[**Numeric Identifier **]/70/35/7
   Ve: 13 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   369 K/uL
   136 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.9 mEq/L
   7 mg/dL
   97 mEq/L
   136 mEq/L
   25.1 %
   15.8 K/uL
        [image002.jpg]
                             [**2141-3-13**]  03:48 AM
                             [**2141-3-13**]  03:56 AM
                             [**2141-3-13**]  07:53 AM
                             [**2141-3-13**]  11:29 AM
                             [**2141-3-13**]  12:54 PM
                             [**2141-3-13**]  04:24 PM
                             [**2141-3-13**]  04:44 PM
                             [**2141-3-13**]  06:40 PM
                             [**2141-3-13**]  11:39 PM
                             [**2141-3-14**]  03:21 AM
   WBC
   16.3
   14.3
   15.8
   Hct
   26.8
   26.9
   25.1
   Plt
   [**Telephone/Fax (3) 4995**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   37
   35
   36
   41
   40
   40
   39
   Glucose
   118
   108
   136
   Other labs: PT / PTT / INR:18.0/30.1/1.6, CK / CKMB /
   Troponin-T:40/9/0.06, Differential-Neuts:86.3 %, Lymph:8.1 %, Mono:4.1
   %, Eos:1.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Fluid analysis / Other labs: 7.32/73/70
   Assessment and Plan
   54 yo male with h/o IPF and now admit with hypoxemic respiratory
   failure and showing across time an inability to effect and signficant
   improvement in ventilation or oxygenation.  Patient has been
   inactivated from lung transplant list and no expectation for return to
   active status given severe right ventricular compromise and inability
   to tolerate procedure at this time.  In addition, patient has
   persistent fevers and continued increase in sputum volume all
   conssitent with persistent and significant infection.
   1)Respiratory Failure-He does have compliance of 13
no evidence of
   pleural effusion, no evidence of progression of pulmonary infiltrates,
   no evidence of progression of abdominal process to suggest worsening
   chest wall compliance.  This would appear to be progression of his
   Idiopathic Pulmonary Fibrosis
   -Vanco/Aztreonam/Cipro for pneumonia
   -Will continue with PEEP at 8, titrate FIO2 to PaO2
   -In regards to his pneumonia he has continued secretions and no culture
   results to suggest need for expansion of antibiotics
   -Continue A/C with RR-35 and Vt-400
   -IPF Specific therapy-Mucormyst to continue
   -Will use Levophed as need for decrease in BP
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2141-3-12**] 05:36 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-3-10**] 04:11 PM
   Arterial Line - [**2141-3-11**] 04:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes